US07696240B2
3-Carboxymethyl-5-fluoro-1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-1H-indole-2-carboxylic acid
Using general procedure B, 3-ethoxycarbonylmethyl-5-fluoro-1H-indole-2-carboxylic acid ethyl ester (Lit. 10) was coupled with 3-bromomethyl-5-fluoro-benzo[b]thiophene (Lit. 18) and the product obtained was hydrolyzed to give the title compound as a white solid. MS: 400.3 ([M−H]−).

reactant | 3-ethoxycarbonylmethyl-5-fluoro-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1CC(=O)OCC)F | C15H16FNO4
reactant | 3-bromomethyl-5-fluoro-benzo[b]thiophene | BrCC=1C2=C(SC1)C=CC(=C2)F | C9H6BrFS
product | 3-Carboxymethyl-5-fluoro-1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-1H-indole-2-carboxylic acid | C(=O)(O)CC1=C(N(C2=CC=C(C=C12)F)CC=1C2=C(SC1)C=CC(=C2)F)C(=O)O | C20H13F2NO4S
